US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-ethylamine, Hydrochloride (Compound A2)
Was prepared according to Method A from 2,4-dichloroquinazoline, ethylamine and 3,5-dimethylpyrazole. Mp. 286° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | ethylamine | C(C)N | C2H7N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-ethylamine, Hydrochloride | Cl.CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NCC | InChI=1S/C15H17N5.ClH/c1-4-16-14-12-7-5-6-8-13(12)17-15(18-14)20-11(3)9-10(2)19-20;/h5-9H,4H2,1-3H3,(H,16,17,18);1H
